US05885994
6-[4-(4-Methylpyridin-2-yl)piperazin-1-ylmethyl]-1,2,3,4-tetrahydroquinoxaline
Example 10 was prepared according to Example 2 except that in Step A 1-(4-methylpyridin-2-yl)piperazine is substituted for 1-(3,4-dimethylphenyl)piperazine; mp 179°-180° C.

reactant | 1-(4-methylpyridin-2-yl)piperazine | CC1=CC(=NC=C1)N1CCNCC1 | C10H15N3
reactant | 1-(3,4-dimethylphenyl)piperazine | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
product | 6-[4-(4-Methylpyridin-2-yl)piperazin-1-ylmethyl]-1,2,3,4-tetrahydroquinoxaline | CC1=CC(=NC=C1)N1CCN(CC1)CC=1C=C2NCCNC2=CC1 | C19H25N5
